US07683181B2
1.0 g 2-hydroxy-(trifluoromethoxy)benzoic acid were dissolved in 30 ml dimethylformamide. 640 mg iodoethane and 4.70 g cesium carbonate were added and the reaction mixture was stirred at room temperature for three hours. The reaction mixture was diluted by addition of 100 ml ethyl acetate, washed with 30 ml water and brine and then dried over MgSO4. The solvent was removed in vacuo to obtain 590 mg 2-ethoxy-4-trifluoromethoxy-benzoic acid methyl ester.

reactant | 2-hydroxy-(trifluoromethoxy)benzoic acid | 1.0 g | OC1=C(C(=O)O)C=CC=C1OC(F)(F)F | C8H5F3O4
reactant | iodoethane | 640 mg | ICC | C2H5I
reactant | cesium carbonate | 4.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-ethoxy-4-trifluoromethoxy-benzoic acid methyl ester | 590 mg | COC(C1=C(C=C(C=C1)OC(F)(F)F)OCC)=O | C11H11F3O4
